US09024027B2
Step 4: Preparation of 2-(5-methoxy-2-oxoindolin-1-yl)acetic acid (116)
To a solution of methyl 2-(5-methoxy-2-oxoindolin-1-yl)acetate (350 mg, 1.488 mmol) in dioxane (10 ml), 12N HCl (10 ml) was added, and the mixture was stirred at room temperature for 24 hours. Then the solvent was evaporated and the resulting crude was dissolved in MeOH (5 ml); by addition of iPrO2 (50 ml) the title compound precipitated, was filtered and used in the next step without further purification (200 mg, 0.904 mmol, 61% yield). MS/ESI+ 222.2 [MH]+.

reactant | methyl 2-(5-methoxy-2-oxoindolin-1-yl)acetate | 1.488 mmol, 350 mg | COC=1C=C2CC(N(C2=CC1)CC(=O)OC)=O | C12H13NO4
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 12N, 10 ml | Cl | ClH
product | 2-(5-methoxy-2-oxoindolin-1-yl)acetic acid | 61% yield | COC=1C=C2CC(N(C2=CC1)CC(=O)O)=O | C11H11NO4
